US04237053
Methyllithium (63.3 ml, 0.0918 mol, 1.45 M in ether) is added dropwise to a solution of the aldehyde, (2S*, 3R*)-3-benzyloxy-1,1-ethylenedioxy-2-methyl-2-(4'-oxobutyl)-cyclohexane (25.4 g, 0.0765 mol) in ether (1000 ml) at 0° C. in a nitrogen atmosphere. The cooling bath is removed and the mixture is stirred for 0.5 hours at ambient temperature. The mixture is then poured into a cold saturated sodium chloride solution (500 ml). The ether phase is separated and the aqueous phase is extracted with ether (3×100 ml). The ether phases are combined, dried (MgSO4) and the solvent is removed at reduced pressure. The crude product (27.1 g) is chromatographed on SilicAR CC-7 (300 g, Mallinckrodt) in hexane. Elution with 10% ethyl acetate/hexane gives (2S*, 3R*)-3-benzyloxy-1,1-ethylenedioxy-2-methyl-2-(4'-hydroxypentyl)-cyclohexane as a colorless oil (25.8 g, 97%).

reactant | Methyllithium | 0.0918 mol, 1.45 M, 63.3 ml | C[Li]
reactant | 3-benzyloxy-1,1-ethylenedioxy-2-methyl-2-(4'-oxobutyl)-cyclohexane | 0.0765 mol, 25.4 g | C(C1=CC=CC=C1)OC1C(C2(CCC1)OCCO2)(CCCC=O)C | C20H28O4
solvent | ether | 1000 ml | CCOCC | C4H10O
product | 3-benzyloxy-1,1-ethylenedioxy-2-methyl-2-(4'-hydroxypentyl)-cyclohexane | 25.8 g, 97% | C(C1=CC=CC=C1)OC1C(C2(CCC1)OCCO2)(CCCC(C)O)C | C21H32O4
